.SUBCKT ICGX4H7R CK E ECK VDD VSS
*.PININFO CK:I E:I ECK:O VDD:B VSS:B
XXI1 net6 CK VDD VSS net14 / NAND2 pl=60n pw=200n nl=60n nw=280n
XXI6 CK VDD VSS net8 / INV pl=60n pw=280n nl=60n nw=200n
XXI5 net8 VDD VSS net11 / INV pl=60n pw=280n nl=60n nw=200n
XXI2 net9 VDD VSS net6 / INV pl=60n pw=280n nl=60n nw=200n
XXI0 net14 VDD VSS ECK / INV pl=60n pw=800n nl=60n nw=560n
XXI4 net6 net11 net8 VDD VSS net9 / TSINV pl=60n pw=150n nl=60n nw=150n
XXI3 E net8 net11 VDD VSS net9 / TSINV pl=60n pw=320n nl=60n nw=200n
.ENDS
